US07705027B2
3-[5-(2,4-Bis-benzyloxy-5-chloro-phenyl)-3-methyl-isoxazol-4-yl]-benzaldehyde
5-(2,4-Bis-benzyloxy-5-chloro-phenyl)-4-iodo-3-methyl-isoxazole (200 mg, 0.38 mmol), and 3-formylbenzene boronic acid (85 mg, 1.5 equiv.) were dissolved in DMF (12 ml) before 1M Sodium hydrogen carbonate solution (1.1 ml, 3.0 equiv) and Pd(Ph3P)2Cl2 (21 mg, 0.08 equiv.) were added with stirring. The reaction mixture was transferred to three microwave tubes which were sealed and the mixtures within degassed before being irradiated by an initial power of 200 W to a temperature of 150° C. for 15 minutes in a CEM microwave apparatus. Upon cooling the reaction mixtures were combined and partitioned between ethyl acetate (10 ml) and water (10 ml). The aqueous layer was separated and extracted again with ethyl acetate (10 ml). The organics were then combined washed with water (2×20 ml), brine (20 ml), dried over Na2SO4 before being condensed in vaccuo and purified by flash chromatography on silica gel, eluting with 25% ethyl acetate in hexane.

reactant | 5-(2,4-Bis-benzyloxy-5-chloro-phenyl)-4-iodo-3-methyl-isoxazole | 0.38 mmol, 200 mg | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)Cl)C1=C(C(=NO1)C)I | C24H19ClINO3
reactant | 3-formylbenzene boronic acid | 85 mg, 1.5 equiv. | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | Sodium hydrogen carbonate | 1M, 1.1 ml, 3.0 equiv | C(O)([O-])=O.[Na+]
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
catalyst | Pd(Ph3P)2Cl2 | 21 mg, 0.08 equiv. | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-[5-(2,4-Bis-benzyloxy-5-chloro-phenyl)-3-methyl-isoxazol-4-yl]-benzaldehyde | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)Cl)C1=C(C(=NO1)C)C=1C=C(C=O)C=CC1 | C31H24ClNO4
